* C:\Users\simon\source\MTAP-MIDI-Guitar-Converter\simulations\SallenKey-Redesign.asc
V1 COM 0 3.3
V2 N002 0 SINE(0 100m 1k) AC 100m
C1 ue N002 2µ2
R1 COM ue 10k
R2 ue 0 10k
R3 N001 ue 5k6
R4 N003 N001 33k
C2 N003 0 6n8
C3 ua N001 12n
XU1 N003 N004 COM 0 ua OP191
R5 ua N004 22k
R6 P001 N004 12k
C4 P001 0 2µ2
.ac dec 100 1 10000
;tran 100m
.lib ADI.lib
.backanno
.end
