* C:\Users\Smon\source\MTAP-MIDI-Guitar-Converter\simulations\SallenKey-Redesign.asc
V1 COM 0 3.3
V2 Uq 0 SINE(0 350m 20) AC 350m
C1 Ue Uq 2µ2
R1 COM Ue 10k
R2 Ue 0 10k
R3 N001 Ue 5k6
R4 N002 N001 33k
C2 N002 0 6n8
C3 Ua N001 12n
XU1 N002 N003 COM 0 Ua OP191
R5 Ua N003 22k
R6 P001 N003 12k
C4 P001 0 2µ2
.ac dec 100 1 10000
;tran 100m
.lib ADI.lib
.backanno
.end
